US06462073B2
1-Benzyl-4-(4-benzyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid hydroxyamide To a stirred solution of 4-methoxybenzenethiol (2.8 gm, 20 mmol) and anhydrous K2CO3 (10 gm, excess) in dry acetone (100 ml), α-bromo ethyl acetate (3.3 gm, 20 mmol) was added in a round bottom flask and the reaction mixture was heated at reflux for 8 hours with good stirring. At the end, the reaction mixture was allowed to cool and the potassium salts were filtered off and the reaction mixture was concentrated. The residue was extracted with chloroform and washed with H2O and 0.5N NaOH solution. The organic layer was further washed well with water, dried over MgSO4, filtered and concentrated. (4-methoxy- phenylsulfanyl)-acetic acid ethyl ester was isolated as pale yellow oil. Yield: 4.4 g (100%); MS; 227 (M+H)+

reactant | 1-Benzyl-4-(4-benzyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid hydroxyamide | ONC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C26H28N2O5S
reactant | 4-methoxybenzenethiol | 20 mmol, 2.8 gm | COC1=CC=C(C=C1)S | C7H8OS
reactant | K2CO3 | 10 gm | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (4-methoxy- phenylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CC=C(C=C1)OC)=O | C11H14O3S
